US04079063
2-(2-Chlorophenyl)-4-hydroxy-1,2,3-triazole-1-oxide
100 g of oxime-hydrazone II (R = 2-chlorophenyl), prepared from diazotized 2-chloroaniline and methazonic acid, is stirred in 1000 ml of 90% acetic acid at room temperature. There are formed after a short time nitrous gases, and a dark clear solution is obtained. After 10 hours, the solution is concentrated by evaporation to dryness, and the residue is stirred into ether, filtered off under suction and dried.

reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | methazonic acid | C(/C=N\O)[N+](=O)[O-] | C2H4N2O3
reactant | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Chlorophenyl)-4-hydroxy-1,2,3-triazole-1-oxide | ClC1=C(C=CC=C1)N1[N+](=CC(=N1)O)[O-] | C8H6ClN3O2
